US06806274B1
1-{7-[3-(4-aminomethylpiperidin-1-yl)propoxy]-6-methoxyquinazolin-4-yl}-3-(2,6-difluorophenyl)urea
Using an analogous procedure to that described in Example 21, 1-{7-[3-(4-tert-butoxycarbonylaminomethylpiperidin-1-yl)propoxy]-6-methoxyquinazolin-4-yl}-3-(2,6-difluorophenyl)urea was reacted with trifluoroacetic acid to give the title compound; NMR Spectrum: (DMSOd6) 1.0-1.4 (m, 3H), 1.7 (d, 2H), 1.9-2.1 (m, 6H), 2.4 (m, 2H), 2.9 (d, 2H), 3.3 (s, partially obscured by a water signal), 4.0 (s, 3H), 4.24 (t, 3H), 5.0-7.0 (br m, 1H), 7.2-7.4 (m, 4H), 8.05 (s, 1H), 8.68 (s, 1H), 11.75S(s, 1H); Mass Spectrum: M+H+ 501.

reactant | 1-{7-[3-(4-tert-butoxycarbonylaminomethylpiperidin-1-yl)propoxy]-6-methoxyquinazolin-4-yl}-3-(2,6-difluorophenyl)urea | C(C)(C)(C)OC(=O)NCC1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC(=O)NC1=C(C=CC=C1F)F)OC | C30H38F2N6O5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 1-{7-[3-(4-aminomethylpiperidin-1-yl)propoxy]-6-methoxyquinazolin-4-yl}-3-(2,6-difluorophenyl)urea | NCC1CCN(CC1)CCCOC1=C(C=C2C(=NC=NC2=C1)NC(=O)NC1=C(C=CC=C1F)F)OC | C25H30F2N6O3
